US07368461B2
2c. 2-Thioxo-[1,4′]bipiperidinyl-1′-carboxylic acid benzyl ester
2-Oxo-[1,4′]bipiperidinyl-1′-carboxylic acid benzyl ester (3.1 g) in tetrahydrofuran (10 mL) was added to a suspension of Lawesson's Reagent (1.98 g) in tetrahydrofuran (40 mL). After 20 minutes the reaction was concentrated and the resulting gum was subjected to chromatography with methylene chloride: ether (gradient 10:1, 5:1) as eluent. The title compound was obtained as a white foam (2.9 g). Rf=0.42 in methylene chloride:ether (10:1). MS: m/z=333 (M+H).

reactant | 2-Oxo-[1,4′]bipiperidinyl-1′-carboxylic acid benzyl ester | 3.1 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)N1C(CCCC1)=O | C18H24N2O3
reactant | Lawesson's Reagent | 1.98 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 2-Thioxo-[1,4′]bipiperidinyl-1′-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)N1C(CCCC1)=S | C18H24N2O2S
